US08629279B2
Synthesis of 5-methoxymethyl-pyridine-2,3-dicarboxylic acid (XIIa)
7.0 g (35 mmol) 5-chloromethyl-pyridine-2,3-dicarboxylic acid anhydride (Va) were dissolved in 165 g (5.16 mol) methanol at room temperature, causing formation of mono-esters. 14 g (350 mmol) NaOH (50% in water) were slowly added whereupon the temperature rose to 50° C. and carboxylate started to precipitate. Stirring was continued for additional 5 h at 65° C.

reactant | 5-chloromethyl-pyridine-2,3-dicarboxylic acid anhydride | 35 mmol, 7.0 g | ClCC=1C=C2C(=NC1)C(=O)OC2=O | C8H4ClNO3
reactant | methanol | 5.16 mol, 165 g | CO | CH4O
reactant | NaOH | 350 mmol, 14 g | [OH-].[Na+]
product | 5-methoxymethyl-pyridine-2,3-dicarboxylic acid | COCC=1C=C(C(=NC1)C(=O)O)C(=O)O | C9H9NO5
